US08207147B2
A solution of K2CO3 (1.67 g, 12.1 mmol) in H2O (30 ml) was added to a stirred solution of 3-(2-cyanopyridin-4-yl)propyl acetate (4.94 g, 24.2 mmol) in MeOH (130 ml). After 25 min, the MeOH was removed under reduced pressure, then the aqueous phase was extracted three times with EtOAc. The combined organic extracts were dried (MgSO4), filtered, and concentrated to give a residue that was purified by column chromatography (IH-EtOAc, 1:3) to furnish 4-(3-hydroxypropyl)pyridine-2-carbonitrile: m/z (ES+)=163.1 [M+H]+. A solution of this alcohol (500 mg, 3.1 mmol) in DMF (20 ml) was treated with PDC (7 g, 18.6 mmol) and H2O (0.5 ml). The reaction was stirred for 16 h, before being partitioned between H2O and EtOAc. The aqueous phase was extracted twice with EtOAc, then the combined organic extracts were washed with brine, before being dried (MgSO4), filtered, and concentrated to give the title compound: m/z (ES−)=177.0 [M+H]+.

reactant | K2CO3 | 12.1 mmol, 1.67 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(2-cyanopyridin-4-yl)propyl acetate | 24.2 mmol, 4.94 g | C(C)(=O)OCCCC1=CC(=NC=C1)C#N | C11H12N2O2
solvent | H2O | 30 ml | O | H2O
solvent | MeOH | 130 ml | CO | CH4O
product | 4-(3-hydroxypropyl)pyridine-2-carbonitrile | OCCCC1=CC(=NC=C1)C#N | C9H10N2O
